US07348337B2
Preparation of 4-Methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindole:
A mixture of 4-methoxy-7-cyano-6-azaindole (0.131 g, 0.757 mmol) and acetic hydrazide (0.270 g, 3.645 mmol) was heated in a sealed tube at 150° C. for 48 h. The reaction mixture was cooled and the solid residue was diluted with EtOAc-H2O. The aqueous phase was separated and re-extracted twice with EtOAc. The combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated, and the residue was purified by preparative HPLC (NH4OAc), affording the title compound (0.0455 g, 26%) as a colorless solid:

reactant | 4-methoxy-7-cyano-6-azaindole | 0.757 mmol, 0.131 g | COC1=C2C=CNC2=C(N=C1)C#N | C9H7N3O
reactant | acetic hydrazide | 3.645 mmol, 0.270 g | C(C)(=O)NN | C2H6N2O
reactant | EtOAc-H2O | C(C)OC(=O)C.O
product | 4-Methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindole | 0.0455 g, 26% | COC1=C2C=CNC2=C(N=C1)C=1NC(=NN1)C | C11H11N5O
